US07368472B2
(2-Nitro-4-phtalimido-phenyl)-carbamic acid ethyl ester
(4-Phtalimido-phenyl)-carbamic acid ethyl ester (99.0 g, 0.32 mol) is suspended in glacial acetic acid (1.5 L) and heated to 90° C. Fuming nitric acid (17.2 mL, 0.41 mol) is added dropwise over 30 minutes at 90-95° C. The reaction mixture is then stirred at 100° C. for 1 hour and cooled to ambient temperature. Crystallised solids are filtered off and washed with glacial acetic acid (500 mL), water (1 L) and diethylether (1 L) on the filter, then dried in vacuo to furnish 101 g (90%) of the title compound as a yellow solid. LC/MS (m/z) 355.0 (MH+); tR=3.34 min. 1H NMR (DMSO-d6): 1.25 (t, 3H); 4.16 (q, 2H); 7.81 (m, 2H); 7.93 (ddd, 2H); 7.99 (ddd, 2H); 6.15 (dd, 1H); 9.99 (s, 1H, NH).

reactant | (4-Phtalimido-phenyl)-carbamic acid ethyl ester | 0.32 mol, 99.0 g | C(C)OC(NC1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C17H14N2O4
reactant | nitric acid | 0.41 mol, 17.2 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 1.5 L | C(C)(=O)O | C2H4O2
product | (2-Nitro-4-phtalimido-phenyl)-carbamic acid ethyl ester | 101 g, 90% | C(C)OC(NC1=C(C=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-])=O | C17H13N3O6
